US05756716
Forty (40) pounds of stearic acid was added to 13.75 gallons (90.4 pounds) of ethanol. Two and four tenths (2.4) pounds of 98% sulfuric acid was added and the reaction run by refluxing ethanol at 77° C. until there was less than 0.5% free fatty acid as determined by FT-IR methods. At this point 3.31 pounds of potassium carbonate was added and 1.05 pounds of carbon dioxide is produced. The remaining mass of 135.05 pounds is sent through a filter where 7.9 pounds is removed, including 4.2 pounds of potassium sulfate with 3.76 pounds of ethanol containing a very small amount of water. The potassium sulfate and the ethanol are recovered. The remaining mass of 127.1 pounds is sent to a vessel where the ethanol is removed by vacuum evaporation. Approximately 12 gallons (81.7 pounds) of ethanol is recovered and 45.4 pounds of material containing 43.6 pounds of ethyl stearate is sent to the esterification reaction. The esterification vessel is charged with 32.3 gallons (294.6 pounds) of DMSO. The ethyl ester product is added, 45.4 pounds containing 43.6 pounds of ethyl stearate and 1.6 pounds of ethanol. Ninety five and six tenths (95.6) pounds of sucrose is added along with 2.9 pounds of potassium carbonate. The reaction is run at 95° C. for about 4 hours until samples withdrawn from the reaction vessel indicate substantial reaction completion. Typically 55.3 pounds of sucrose stearate would be formed in four hours. During the reaction a little more than 1 gallon of ethanol (6.75 pounds) is recovered as condensate from a reflux condenser overhead. After completion of the transesterification reaction to produce the sucrose ester, 431.8 pounds of a mixture (approximately 44 gallons) is subject to DMSO removal, with 288.7 pounds of DMSO being recovered. From the previous esterification reaction and DMSO recovery steps, 143.1 pounds of product plus unreacted materials is washed with 286.2 pounds (34 gal) of water. Ethanol (7 gallons, 42.9 pounds) is added to break the emulsion. The mixture is centrifuged, the solids from the centrifuge are washed with an additional 13 gallons of ethanol and the mixture is centrifuged again. From this ethanol "drying" step, 126.8 pounds of material (which was 49.7 pounds of desired product, 61.7 pounds of ethanol and 8.7 pounds of ethyl stearate) is recovered. This 126.8 pounds of material was washed with 17 gallons (126.8 pounds) of ethyl stearate. The total mixture is again centrifuged and 124.2 pounds of "solids" is obtained along with 129.4 pounds of solution from which the ethyl acetate and ethanol may be recovered. The ethyl acetate solution contains 8.3 pounds of ethyl stearate. The solids containing the desired product is sent to the dryer. The 124.2 pounds of solids from the centrifuge after the ethyl acetate wash is dried. Sucrose stearate is recovered as 48.7 pounds of material of which 44.8 pounds is pure sucrose stearate. This is approximately 92% by weight purity, which is well above the 80% by weight purity commercial requirement. About 11 gallons (75.4 pounds) of condensate is obtained for recycling.

reactant | DMSO | 32.3 gallons, 294.6 pounds | CS(=O)C | C2H6OS
reactant | ethyl stearate | 43.6 pounds | C(CCCCCCCCCCCCCCCCC)(=O)OCC | C20H40O2
reactant | sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | potassium carbonate | 2.9 pounds | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 1.6 pounds | C(C)O | C2H6O
product | sucrose stearate | 55.3 pounds | CCCCCCCCCCCCCCCCCC(=O)OC[C@@]1([C@H]([C@@H]([C@H](O1)CO)O)O)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O | C30H56O12
